US07129238B2
Morpholinobenzaldehyde was reacted according to general procedure A using methanol/dioxane as a solvent. The product of this reaction was subsequently coupled with 4-aminomethyl benzonitrile according to general procedure B to give (RS)-N-(4-cyano-benzyl)-2-methoxy-2-(2-morpholin-4-yl-phenyl)-acetamide. Orange oil.

reactant | Morpholinobenzaldehyde | O1CCN(CC1)C1=C(C=O)C=CC=C1 | C11H13NO2
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
reactant | methanol dioxane | CO.O1CCOCC1
product | (RS)-N-(4-cyano-benzyl)-2-methoxy-2-(2-morpholin-4-yl-phenyl)-acetamide | C(#N)C1=CC=C(CNC(C(C2=C(C=CC=C2)N2CCOCC2)OC)=O)C=C1 | C21H23N3O3
